* c:\users\vinit\desktop\summation-of-counter\1fullfinal\vinit_counter\vinit_counter.cir

.include vinit_inverter.sub
.include vinit_XOR.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ vinit_dff
* u5  net-_u5-pad1_ net-_u1-pad2_ net-_u15-pad2_ vinit_dff
v1  clk gnd pulse(0 5 1 1n 1n 0.5 1)
* u3  clk net-_u1-pad2_ adc_bridge_1
* u4  clk plot_v1
* u6  q0 plot_v1
* u8  q1 plot_v1
* s c m o d e
x1 gnd net-_u15-pad2_ net-_u1-pad3_ net-_x1-pad4_ net-_u5-pad1_ vinit_XOR
v2  net-_x1-pad4_ gnd 5
* u2  net-_u1-pad3_ net-_u15-pad2_ net-_u13-pad3_ net-_u14-pad3_ net-_u2-pad5_ net-_u13-pad1_ net-_u14-pad1_ net-_u15-pad5_ vinit_2bitpa
* u13  net-_u13-pad1_ net-_u1-pad2_ net-_u13-pad3_ vinit_dff
* u14  net-_u14-pad1_ net-_u1-pad2_ net-_u14-pad3_ vinit_dff
* u9  gnd net-_u2-pad5_ adc_bridge_1
* u11  s0 plot_v1
* u10  s2 plot_v1
* u12  s1 plot_v1
* u15  net-_u1-pad3_ net-_u15-pad2_ net-_u13-pad1_ net-_u14-pad1_ net-_u15-pad5_ q0 q1 s0 s1 s2 dac_bridge_5
x2 net-_x1-pad4_ net-_u1-pad3_ gnd net-_u1-pad1_ vinit_inverter
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] u1
a2 [net-_u5-pad1_ ] [net-_u1-pad2_ ] [net-_u15-pad2_ ] u5
a3 [clk ] [net-_u1-pad2_ ] u3
a4 [net-_u1-pad3_ ] [net-_u15-pad2_ ] [net-_u13-pad3_ ] [net-_u14-pad3_ ] [net-_u2-pad5_ ] [net-_u13-pad1_ ] [net-_u14-pad1_ ] [net-_u15-pad5_ ] u2
a5 [net-_u13-pad1_ ] [net-_u1-pad2_ ] [net-_u13-pad3_ ] u13
a6 [net-_u14-pad1_ ] [net-_u1-pad2_ ] [net-_u14-pad3_ ] u14
a7 [gnd ] [net-_u2-pad5_ ] u9
a8 [net-_u1-pad3_ net-_u15-pad2_ net-_u13-pad1_ net-_u14-pad1_ net-_u15-pad5_ ] [q0 q1 s0 s1 s2 ] u15
* Schematic Name:                             vinit_dff, NgSpice Name: vinit_dff
.model u1 vinit_dff(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             vinit_dff, NgSpice Name: vinit_dff
.model u5 vinit_dff(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             vinit_2bitpa, NgSpice Name: vinit_2bitpa
.model u2 vinit_2bitpa(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             vinit_dff, NgSpice Name: vinit_dff
.model u13 vinit_dff(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             vinit_dff, NgSpice Name: vinit_dff
.model u14 vinit_dff(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_5, NgSpice Name: dac_bridge
.model u15 dac_bridge(out_low=0.0 out_high=1.5 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.001e-00 4e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk)
plot v(q0)
plot v(q1)
plot v(s0)
plot v(s2)
plot v(s1)
.endc
.end
